US08278282B2
To a solution of (3R,4S,5R)-5-(2,4-Dichlorobenzyloxymethyl)-4-(2,4-dichlorobenzyloxy)-2-methoxy-tetrahydrofuran-3-ol (9.20 g, 19.08 mmol) in anhydrous CH2Cl2 (70 mL) and trichloroisocyanuric acid (4.88 g, 21 mmol) in an ice bath is added TEMPO (160 mg, 0.95 mmol). The reaction mixture changes to a yellow suspension and is stirred at 20° C. for 1 h. The reaction is determined to be complete by HPLC and filtered. The solvent is evaporated and toluene (100 mL) is added. The organic phase is washed with sat. NaHCO3 solution (50 mL) and HCl aq. solution (1N, 50 mL). The organic layers are dried (MgSO4), filtered and concentrated to give (4R,5R)-5-(2,4-Dichlorobenzyloxymethyl)-4-(2,4-dichlorobenzyloxy)-2-methoxy-dihydrofuran-3-one as light green oil which is directly used for the next step.

reactant | (3R,4S,5R)-5-(2,4-Dichlorobenzyloxymethyl)-4-(2,4-dichlorobenzyloxy)-2-methoxy-tetrahydrofuran-3-ol | 19.08 mmol, 9.20 g | ClC1=C(COC[C@@H]2[C@H]([C@H](C(O2)OC)O)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C20H20Cl4O5
reactant | trichloroisocyanuric acid | 21 mmol, 4.88 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
reactant | TEMPO | 0.95 mmol, 160 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
product | (4R,5R)-5-(2,4-Dichlorobenzyloxymethyl)-4-(2,4-dichlorobenzyloxy)-2-methoxy-dihydrofuran-3-one | ClC1=C(COC[C@@H]2[C@H](C(C(O2)OC)=O)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C20H18Cl4O5
